US09212135B2
Step C: 2-Methyl-2-(2-(pyridin-4-yl)phenylthio)propanoic Acid
A mixture of ethyl 2-methyl-2-(2-(pyridin-4-yl)phenylthio)propanoate and aqueous sodium hydroxide solution (1 M) in methanol is stirred at 60° C. for 12 hours. The reaction mixture is then concentrated, acidified, filtered and the isolated solid purified by to chromatography.

reactant | ethyl 2-methyl-2-(2-(pyridin-4-yl)phenylthio)propanoate | CC(C(=O)OCC)(C)SC1=C(C=CC=C1)C1=CC=NC=C1 | C17H19NO2S
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 2-Methyl-2-(2-(pyridin-4-yl)phenylthio)propanoic Acid | CC(C(=O)O)(C)SC1=C(C=CC=C1)C1=CC=NC=C1 | C15H15NO2S
